US05442055
A solution of 89.1 ml of 2-bromopropionyl bromide in 95 ml of methylene chloride and a solution of 61.13 g of pyridine in 95 ml of methylene chloride are added dropwise to a suspension of 140 g of spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one in 190 ml of methylene chloride under nitrogen atmosphere at -5° C. during about 45 minutes. Then the mixture is stirred at a room temperature for 6 hours. The reaction mixture is poured into 500 ml of water and the mixture is extracted with methylene chloride. The extract is washed, dried and evaporated to remove the solvent and the residue obtained is crystallized from methanol and the crystals are collected by filtration to obtain 197.3 g of 3-(2-bromopropionyl)-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one.

reactant | 2-bromopropionyl bromide | 89.1 ml | BrC(C(=O)Br)C | C3H4Br2O
reactant | pyridine | 61.13 g | N1=CC=CC=C1 | C5H5N
reactant | spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one | 140 g | C12(CCCCC1)OC1=C(C(N2)=O)C=CC=C1 | C13H15NO2
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 95 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 95 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 190 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-bromopropionyl)-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one | 197.3 g | BrC(C(=O)N1C(C2=C(OC13CCCCC3)C=CC=C2)=O)C | C16H18BrNO3
